US07414063B2
Isoquinoline-5-sulfonic acid {2-[2-(4-bromo-benzenesulfonyl)-ethylamino]-ethyl}-amide
A stirred mixture of isoquinoline-5-sulfonic acid {2-[2-(4-bromo-phenylsulfanyl)-ethylamino]-ethyl}-amide (73.0 mg, 0.157 mmol) and oxone (289 mg, 0.470 mmol) in CH3OH (5 mL)/H2O (1.3 mL) is allowed to stir at ambient temperature for 30 minutes to form a suspension. After filtration, the white solid is sonicated in H2O (10 mL), then filtered to give a tan solid of the title compound. ESIMS: m/z 498 [(M+H)+, 79Br], 500 [(M+H)+, 81Br].

reactant | isoquinoline-5-sulfonic acid {2-[2-(4-bromo-phenylsulfanyl)-ethylamino]-ethyl}-amide | 0.157 mmol, 73.0 mg | BrC1=CC=C(C=C1)SCCNCCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C19H20BrN3O2S2
reactant | oxone | 0.470 mmol, 289 mg | OOS(=O)[O-].[K+]
reactant | H2O | 1.3 mL | O | H2O
solvent | CH3OH | 5 mL | CO | CH4O
product | Isoquinoline-5-sulfonic acid {2-[2-(4-bromo-benzenesulfonyl)-ethylamino]-ethyl}-amide | BrC1=CC=C(C=C1)S(=O)(=O)CCNCCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C19H20BrN3O4S2
